US06133258
The reaction procedure of Example 102 was followed except that 334 mg of 2-chloronicotinoyl chloride, 145 mg of ammonium thiocyanate, 300 m of 6-(methylamino)quinoline and 7 ml of acetone were used. The resulting crude product was then washed with hot ethanol to obtain 324 mg of 2-[N-methyl-N-(quinolin-6-yl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one hydrochloride.

reactant | 2-chloronicotinoyl chloride | 334 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 145 mg | [S-]C#N.[NH4+]
reactant | 6-(methylamino)quinoline | CNC=1C=C2C=CC=NC2=CC1 | C10H10N2
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 2-[N-methyl-N-(quinolin-6-yl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one hydrochloride | 324 mg | Cl.CN(C=1C=C2C=CC=NC2=CC1)C=1SC2=C(C(N1)=O)C=CC=N2 | InChI=1S/C17H12N4OS.ClH/c1-21(12-6-7-14-11(10-12)4-2-8-18-14)17-20-15(22)13-5-3-9-19-16(13)23-17;/h2-10H,1H3;1H
